US05292760
A solution of 6.00 g of 2-amino-N-methyl-α-(3-thienyl)benzeneethanamine and 10 ml of triethyl orthopropionate, was treated with 8 ml of glacial acetic acid. After refluxing for eight hours, the volatile components were removed at 70° C. on a rotary evaporator. The residual oil was decanted into an ice-water mixture and basified with 10% sodium hydroxide solution. The aqueous mixture was extracted with dichloromethane and the organic phase was dried over anhydrous magnesium sulfate, filtered, and concentrated to provide 4,5-dihydro-2-ethyl-3-methyl-4-(3-thienyl)-3H-1,3-benzodiazepine as an oil.

reactant | 2-amino-N-methyl-α-(3-thienyl)benzeneethanamine | 6.00 g | NC1=C(C=CC=C1)CC(NC)C1=CSC=C1 | C13H16N2S
reactant | triethyl orthopropionate | 10 ml | C(CC)(OCC)(OCC)OCC | C9H20O3
reactant | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
product | 4,5-dihydro-2-ethyl-3-methyl-4-(3-thienyl)-3H-1,3-benzodiazepine | C(C)C1=NC2=C(CC(N1C)C1=CSC=C1)C=CC=C2 | C16H18N2S
